Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  ___ year old male with ADHD and
anxiety presenting who was transferred from OSH with delusions,
hallucinations, and tremulousness.

Most of the history is supplied by patient's mother, who is also
an NP. She reports that 3 weeks ago he began getting paranoid
that his neighbors were drilling holes in his walls and dumping
bags of lice into his apartment. He was also having visual
hallucinations about bugs coming out of his face and hands, and
accused his father of trying to kill him. His family was
ultimately able have him seen by the local crisis team
approximately 2 weeks ago, who placed him on a ___. He
went to an ___ rehab center at ___ for 6
days and completed a 3 day Klonopin taper. He was also started 
on
2mg Risperdal daily. Unfortunately, he signed himself out after 
6
days.

He was discharged on ___ with, per mother's report, only "a
little residual delusions about lice." He became progressively
more restless and anxious over the next two days including an
episode on ___ when he checked himself into a hotel for 6
hours before returning to his parent's house. On ___
morning, he woke his father up saying he hadn't slept for 10 
days
and asking to be taken to the hospital for withdrawal treatment. 
He was brought to OSH on ___ where, per his mother, he 
received 10mg ___ that acutally made him more restless and 
then 20mg of ziprasidone and 1mg of clonazepam that seemed to 
help his symptoms. He was then admitted to ___ on 
___ night. The family felt that at this time he was more 
regressed, disoriented, and delirious.

Per ___ records, patient received chlorpromazine, 
diphenhydramine, lorazepam, mirtazapine, risperidone, trazodone, 
and hydroxyzine over the last 48-72 hours. He was then noted to 
be more agitated and delirious, and was transferred to ___ for 
further evaluation.

In the ED, vitals were notable only for tachycardia to 104 that 
resolved over the next few hours. On exam the patient was drowsy 
though arousable and seemed to be reaching for things. Exam was 
absent for rigidity, clonus, and hyperreflexia. Given ED concern 
for toxodrome, toxicology was consulted who felt that patient's 
presentation was most consistent with combined sedation and 
anticholinergic picture likely secondary to atypical 
antipsychotics on the top of other antipsychotic and 
anticholinergic medications. Given his stability, they 
recommended against giving physostigmine and favored 
nonpharmacologic/supportive management. He was then admitted to 
the floor for further management.

Upon arrival to the floor, the patient is short and untrusting 
but cooperative with interview and exam. He gives a very sparse 
recent history. He denies fevers, chills, nausea, vomiting, 
diarrhea, constipation, and palpitations. He endorses dry mouth.

Of note, his family believes he's been buying amphetamines on 
the street in addition to the Adderall he was being prescribed 
legitimately. They also recently cleaned out his apartment and 
found 8 large bottles of phenibut, a gaba agonist that they 
think he's been taking for the last year for anxiety and sleep. 
They also found much smaller bottles of deer antler ("Bucked 
Up"), "Bullet proof brain octane oil", and creatine.

 
Past Medical History:
ADHD
 
Social History:
___
Family History:
Mom with mild mood disorder.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
PHYSICAL EXAM:  
VITALS:  97.7  121/78   93   18   99% RA 
General: Alert. Short with responses but cooperative.  
HEENT: Sclerae anicteric, dry mucous membranes, oropharynx 
clear,
EOMI, PERRL.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, moving all four extremities with 
purpose.
No rigidity noted on exam.

DISCHARGE PHYSICAL EXAM:
=======================
PHYSICAL EXAM:  
VITALS: 24 HR Data (last updated ___ @ 741)
    Temp: 98.3 (Tm 98.5), BP: 115/74 (101-115/62-74), HR: 64
(60-83), RR: 18 (___), O2 sat: 97% (96-99), O2 delivery: Ra  
General: Alert. Sitting up in bed.
HEENT: Sclerae anicteric, EOMI. No nystagmus.
CV: Regular rate and rhythm. Normal S1/S2.
Lungs: CTAB. No increased work of breathing, 
Abdomen: Soft, non-distended, non-tender. No rebound or 
guarding.
Ext: Warm, well perfused, no edema. 2+ Pulses
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Moving all four extremities with purpose. No rigidity
noted on exam. A&Ox3.

 
Pertinent Results:
Labs on Admission:
=================
___ 01:40PM BLOOD WBC-11.5* RBC-4.34* Hgb-13.4* Hct-40.5 
MCV-93 MCH-30.9 MCHC-33.1 RDW-12.3 RDWSD-42.7 Plt ___
___ 01:40PM BLOOD Glucose-98 UreaN-21* Creat-0.9 Na-143 
K-4.3 Cl-104 HCO3-24 AnGap-15
___ 01:40PM BLOOD ALT-42* AST-152* CK(CPK)-7237* AlkPhos-80 
TotBili-0.7
___ 01:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Pertinent Labs
==============
CK: 7237-> 4839-> 2305 -> 1474 -> 1296 -> 1138

Labs on Discharge:
================== 
___ 05:54AM BLOOD WBC-7.3 RBC-4.61 Hgb-14.1 Hct-43.4 MCV-94 
MCH-30.6 MCHC-32.5 RDW-11.9 RDWSD-41.3 Plt ___
___ 05:54AM BLOOD Glucose-91 UreaN-20 Creat-0.7 Na-141 
K-5.0 Cl-102 HCO3-30 AnGap-9*
___ 05:54AM BLOOD ALT-34 AST-47* CK(CPK)-1138* AlkPhos-92 
TotBili-0.2
___ 05:54AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of ADHD, 
depression, and recent new onset psychosis and hallucinations 
thought to be substance related, with recent inpatient psych 
benzo detox, who presented as a transfer from ___ on 
___ with altered mental status, agitation, and 
tremulousness, concerning for for anticholinergic toxidrome and 
phenibut withdrawal, also found to have an elevated CK in the 
ED.

ACUTE ISSUES:
===================== 
# Anticholinergic Toxidrome
# Phenibut Withdrawal
Patient presented as transfer from ___ with altered 
mental status, agitation, dry mouth, and tremulous, in the 
setting of having received multiple anticholinergic medications 
and antipsychotics at OSH. Toxicology was consulted in the ED, 
who suspected his clinical constellation was related to a 
combination of anticholinergic toxidrome and phenibut (a ___ 
supplement, gaba agonist) withdrawal. Given his clinical 
stability and lack of violent behavior, they recommended 
nonpharmacologic management. In the setting of his recent 
benzodiazepine taper, he received no further benzos. The 
patient's agitation, confusion, and tremulousness significantly 
improved with non-pharmacologic management.

# Elevated CK
Toxicology recommended checking CK given elevated transaminases. 
Diphenhydramine and hydroxyzine can sometimes cause 
rhabdomyolysis. CK downtrending from 7237 --> 
4839-->1474-->1296-->1138 on IV Fluids and with PO intake. Cr 
within normal limits. No blood detected on UA. Possible that 
patient had mild rhabdo without ___ that improved off substances 
and with fluids. His CK level should be followed up in one week 
to ensure it appropriately downtrends to normal levels.

# Acute psychosis
The differential for his initial presentation 3 weeks ago with 
acute psychosis is broad and includes medication overdose (both 
his previously prescribed Adderall and OTC supplements including 
phenibut, deer antler, and "bullet proof brain octane oil"), 
illicit drug use (patient has previously endorsed additional 
amphetamine use beyond his Rx), and new psychotic disorder. 
Psychiatry was consulted and suspected substance induced 
psychosis as the cause of his presentation, as a new psychotic 
break in his late ___ would be atypical. Given conflicting 
information from the patient and his parents re: his access to 
outpatient psychiatry (he states he does not have an outpatient 
psychiatrist) and his recent substance use, the psychiatry team 
recommended transfer back to inpatient psychiatry for further 
psychiatric care. He was discharged back to ___ on a 
___.

Transitional Issues:
====================
[ ] Please obtain a CK, renal function panel, and liver function 
panel in 1 week to ensure continued improvement of his elevated 
CK and mild hepatocellular transaminitis.

[ ] The patient was previously prescribed Adderall for his ADHD. 
This should not be restarted in the future.

[ ] He will need psychiatric med titration. Of note, he was 
recently tapered off his clonazepam, and his risperidone was 
discontinued.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 60 mg PO DAILY 
2. ClonazePAM 1.5 mg PO DAILY 

 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
- Altered mental status ___ anticholinergic overdose and 
Phenibut (gaba agonist) withdrawal

SECONDARY DIAGNOSES
===================
- Psychosis secondary to substance use
- ADHD
- Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
- You were admitted as a transfer to ___ for 
worsening confusion and agitation.

What was done for me while I was in the hospital?
-You were monitored closely for improvement of your confusions 
and agitation.
-You were given IV fluids to help protect your kidney

What should I do when I leave the hospital?
- Please see your primary care doctor after you are released 
from your ___.
- Please monitor for new/or worsening symptoms (confusion, dry 
eyes/mouth, constricted pupils, fast heart rate, abdominal pain, 
diarrhea, difficulty urinating, dark urine, muscle pains). If 
you do not feel like you are getting better or have any other 
concerns, please call your doctor to discuss or return to the 
emergency room.
-Please note any new medications in your discharge worksheet.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___